US06828344B1
3-{4-[2-(3-benzhydryl-5-chloro-2-methyl-1H-indol-1-yl)ethoxy]phenyl}propanoic acid
The methyl ester of the title compound was prepared from methyl 3-(4-hydroxyphenyl)propionate and 2-(3-benzhydryl-5-chloro-2-methyl-1H-indol-1-yl)ethanol according to Step 2 of the procedures for Example 2.

reactant | methyl 3-(4-hydroxyphenyl)propionate | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | 2-(3-benzhydryl-5-chloro-2-methyl-1H-indol-1-yl)ethanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)Cl)CCO)C | C24H22ClNO
product | 3-{4-[2-(3-benzhydryl-5-chloro-2-methyl-1H-indol-1-yl)ethoxy]phenyl}propanoic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)Cl)CCOC1=CC=C(C=C1)CCC(=O)O)C | C33H30ClNO3
